US06673737B2
1-(butyl)-3-(3-triethoxysilylpropyl)-4,5-dihydroimidazolium chloride (2)
A mixture of N-(3-triethoxysilylpropyl)-4,5-dihydroimidazol (13.7 g, 0.05 mol) and 1-chlorobutane (13.9 g, 0.15 mol) were refluxed at 78° C. for 21 hrs. The reaction mixture was cooled to room temperature and the volatiles evaporated under reduced pressure (10−2 torr). The resulting material consisted of a brown colored paste, which was washed with pentane (3×100 ml). After drying the residue under reduced pressure (10−2 torr) a yellow solid of complex (2) was obtained in 99% yield. 1H NMR (CDCl3) 0.60 (m, 2H, 3J=7.0, CH2—CH2—Si), 0.96 (tr, 3H, 3J=7.4, —CH2—CH2—CH3), 1.22 (tr, 9H, 3J=7.0, CH3—CH2—O), 1.38 (six, 2H, 3J=7.4, —CH2—CH2—CH3), 1.68 (m, 2H, Si—CH2—CH2—), 1.76 (m, 2H, —CH2—CH2—CH3), 3.65 (m, 4H, Si—CH2—CH2—CH2—N and —N—CH2—CH2—N—Bu), 3.82 (qr, 6H, CH3—CH2—O), 4.04 (m, 4H, —N—CH2—CH2—CH2—CH3 and —N—CH2—CH2—N—Bu), 10.01 (s, 1H, N—CH—N) ppm; 13C NMR (CDCl3) 7.32 (1C, Si—CH2—CH2—), 13.58 (1C, —CH2—CH2—CH3), 18.33 (3C, CH3—CH2—O—), 19.63 (1C, —CH2—CH2—CH3), 21.27 (1C, Si—CH2—CH2—), 29.36 (1C, —CH2—CH2—CH3), 48.01, 48.21, 48.51, 50.37 (4C, —CH2—N—CH2—CH2—N—CH2—), 58.53 (3C, CH3—CH2—O—), 158.87 (1C, N—CH—N) ppm; MS/ES+ (m/e) 331 [M+], Anal. Calcd for C16H35N2ClO3Si: C, 52.37; H, 9.61; N, 7.63; Cl, 9.66; Si, 7.65. Found: C, 51.64; H, 9.94; N, 7.60; Cl, 13.61; Si, 7.65.

reactant | N-(3-triethoxysilylpropyl)-4,5-dihydroimidazol | 0.05 mol, 13.7 g | C(C)O[Si](CCCN1C=NCC1)(OCC)OCC | C12H26N2O3Si
reactant | 1-chlorobutane | 0.15 mol, 13.9 g | ClCCCC | C4H9Cl
product | 1-(butyl)-3-(3-triethoxysilylpropyl)-4,5-dihydroimidazolium chloride | 99% yield | [Cl-].C(CCC)[N+]1=CN(CC1)CCC[Si](OCC)(OCC)OCC | InChI=1S/C16H35N2O3Si.ClH/c1-5-9-11-17-13-14-18(16-17)12-10-15-22(19-6-2,20-7-3)21-8-4;/h16H,5-15H2,1-4H3;1H/q+1;/p-1
